US04885283
A solution of 0.53 g of N-[(benzyloxy)carbonyl]-L-leucine in 10 ml of dry tetrahydrofuran was cooled to -30° C. and there was then added 0.23 g of N-ethylmorpholine followed by 0.27 g of isobutyl chloroformate. After stirring at -30° C. for 5 minutes a solution of 0.6 g of (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester, prepared as described in Example 2(A)(i), and 0.23 g of N-ethylmorpholine were added. The mixture was left to come to room temperature and was stirred at this temperature for 3.5 hours. The mixture was then diluted with 50 ml of dichloromethane, washed with 20 ml of 10% sulfuric acid, 20 ml of sodium chloride solution and 20 ml of saturated sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate and evaporated to give a colorless gum. This gum was purified by flash chromatography on silica gel using 10% methanol in ethyl acetate for the elution to give 0.645 g of benzyl[(S)-1-[[[methoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamate in the form of a white foam.

reactant | N-[(benzyloxy)carbonyl]-L-leucine | 0.53 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | N-ethylmorpholine | 0.23 g | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.27 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (aminomethyl)[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid methyl ester | 0.6 g | COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN | C16H34N3O4P
reactant | N-ethylmorpholine | 0.23 g | C(C)N1CCOCC1 | C6H13NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | benzyl[(S)-1-[[[methoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamate | 0.645 g | C(C1=CC=CC=C1)OC(N[C@@H](CC(C)C)C(NCP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)OC)=O)=O | C30H51N4O7P
